US07776875B2
Preparation of Intermediate E/Z-6-chloro-3-[5-chloro-2-(1-ethyl-1-methoxycarbonylpropoxy)-benzylidene]-5-fluoro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-2-[4-chloro-2-(6-chloro-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-ethyl-butyric acid methyl ester (1.22 g, 2.7 mmol) in dichloromethane (10 mL) at room temperature was added di-tert-butyl-dicarbonate (0.7 g, 3.24 mmol), followed by the addition of 4-dimethylaminopyridine (0.05 g, 0.41 mmol). After the reaction mixture was stirred at room temperature for 1 h, the solution was concentrated. The residue was purified by flash column to give the title compound as a yellow solid (1.4 g).

reactant | Z-2-[4-chloro-2-(6-chloro-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-ethyl-butyric acid methyl ester | 2.7 mmol, 1.22 g | COC(C(CC)(CC)OC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=C(C=C12)F)Cl)=O)=O | C22H20Cl2FNO4
reactant | di-tert-butyl-dicarbonate | 3.24 mmol, 0.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.41 mmol, 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-[5-chloro-2-(1-ethyl-1-methoxycarbonylpropoxy)-benzylidene]-5-fluoro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 1.4 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC(=C(C=C12)Cl)F)=C/C1=C(C=CC(=C1)Cl)OC(CC)(C(=O)OC)CC)=O | C27H28Cl2FNO6
